US06413980B1
N-[4-bromophenyl]-3-oxocaprolactam (0.37 g, 1.13 mmol), morpholine (0.25 mL, 2.81 mmol), and p-toluenesulfonic acid (catalytic amount) were refluxed with 30 mL benzene using a Dean Stark apparatus under N2 for 12 h. The solvent was removed in vacuo and the residue was dried under vacuum to give 1,5,6,7-tetrahydro-1-[4-bromophenyl]-3-(morpholin-4-yl)-2H-azepin-2-one. LRMS (AP+): 351.0, 353.0, (M+H)+.

reactant | N-[4-bromophenyl]-3-oxocaprolactam | 1.13 mmol, 0.37 g | BrC1=CC=C(C=C1)N1C(CC(CCC1)=O)=O | C12H12BrNO2
reactant | morpholine | 2.81 mmol, 0.25 mL | N1CCOCC1 | C4H9NO
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | 1,5,6,7-tetrahydro-1-[4-bromophenyl]-3-(morpholin-4-yl)-2H-azepin-2-one | BrC1=CC=C(C=C1)N1C(C(=CCCC1)N1CCOCC1)=O | C16H19BrN2O2
